US07943609B2
(4S)—N-(4-Methoxybenzyl)-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazin-9-amine (350 mg, 0.99 mmol) was dissolved in 15 mL of trifluoroacetic acid and stirred at ambient temperature overnight. The solvent was removed under reduced pressure to give an orange residue which was then treated with 30 mL of aqueous 10% NaOH solution and the mixture was stirred for 2 hours. The solution was then extracted with CH2Cl2 (3×30 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give an orange solid. Chromatography (SiO2, 10-30% CMA/CHCl3) gave an off-white solid. Crystallization from acetonitrile gave (4S)-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazin-9-amine (115 mg) as a white powder, mp 264-267° C.

reactant | (4S)—N-(4-Methoxybenzyl)-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazin-9-amine | 0.99 mmol, 350 mg | COC1=CC=C(CNC2=NC(=C(C3=C2N=C2COC[C@@H](N23)C)C)C)C=C1 | C20H24N4O2
reactant | NaOH | [OH-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (4S)-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazin-9-amine | 115 mg | C[C@@H]1N2C(COC1)=NC1=C2C(=C(N=C1N)C)C | C12H16N4O
